US06156767
N-Methoxy-N-methyl-2-pyridin-3-yl-acetamide
To a suspension of pyridin-3-yl-acetic acid (856 mg in 20 mL dry methylene chloride) was added in sequence 0.35 mL triethylamine, 1-hydroxybenzotriazole (862 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.08 g) and the reagents allowed to mix for 1 hour. At this time, N,O-dimethylhydroxylamine hydrochloride (1.22 g) was added followed by 2.0 mL triethylamine and the reaction stirred at room temperature. After 20 hours, the mixture applied to a silica gel column and purified by flash chromatography (methylene chloride:methanol, 94:6) to give the title compound (796 mg).

reactant | pyridin-3-yl-acetic acid | 20 mL, 856 mg | N1=CC(=CC=C1)CC(=O)O | C7H7NO2
reactant | 1-hydroxybenzotriazole | 862 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.08 g | Cl.CN(CCCN=C=NCC)C
reactant | N,O-dimethylhydroxylamine hydrochloride | 1.22 g | Cl.CNOC
solvent | triethylamine | 2.0 mL | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.35 mL | C(C)N(CC)CC | C6H15N
product | N-Methoxy-N-methyl-2-pyridin-3-yl-acetamide | 796 mg | CON(C(CC=1C=NC=CC1)=O)C | C9H12N2O2
